US07267974B2
In a 500-ml shaking flask were charged an inorganic medium containing 6.2 g/l disodium hydrogen phosphate, 3 g/l potassium dihydrogen phosphate, 1.0 g/l ammonium chloride, 0.5 g/l sodium chloride, and 3 ml/l trace components solution and 50 ml of a medium having a composition of 1.0 g/l polypeptone (Nihon Pharmaceutical Co., Ltd.), and 1.0 g/l D-glucose. ANTIFOAM PE-M was added to the resultant mixture in the same manner as in Example 2 in a concentration of 0.5 ml/l. The obtained mixture was sterilized at high temperature and high pressure and cooled to room temperature to prepare a medium. Thereafter, n-amylbenzene, i.e. an alkane, was added thereto as a substrate so as to make a concentration of 6 mM. Also, 5-(vinylphenyl)pentane, i.e. an alkane, was further added thereto so as to make a concentration of 0.8 mM. YN21M strain, one of the novel microorganisms of the present invention, was inoculated in this shaking flask and cultured with shaking at 30° C. at 125 strokes/min. After 40 hours, the cells were recovered by centrifugation and PHA was extracted in the same manner as that in Example 1 and the obtained PHA was weighed. As a result, the polymer dry weight (PDW) was found to be 0.72 g/l. Further, the structure determination of the obtained PHA by 1H-NMR in the same manner as that in Example 1 gave a monomer unit ratio of 3-hydroxy-5-phenylvaleric acid of 80.7 mol %. Also, the monomer unit ratio of 3-hydroxy-5-(4-vinylphenyl) valeric acid was found to be 15.3 mol %. From the above, it was confirmed that PHA including a 3-hydroxy-5-phenylvalerate unit and 3-hydroxy-5-(4-vinylphenyl) valerate unit could be synthesized from n-amylbenzene and vinylphenylpentane by the YN21M strain.

reactant | disodium hydrogen phosphate | P(=O)(O)([O-])[O-].[Na+].[Na+]
reactant | potassium dihydrogen phosphate | P(=O)(O)(O)[O-].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium chloride | [Cl-].[Na+]
reactant | D-glucose | O=C[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H12O6
reactant | n-amylbenzene | CCCCCC1=CC=CC=C1 | C11H16
reactant | 5-(vinylphenyl)pentane | C(=C)C1=C(C=CC=C1)CCCCC | C13H18
product | 3-hydroxy-5-phenylvaleric acid | OC(CC(=O)O)CCC1=CC=CC=C1 | C11H14O3
